US07612055B2
c) (E)-(3S,14R)-16-(2-Chloro-1-hydroxy-ethyl)-3,4,14-trimethyl-1,4diaza-cyclohexadec-10-ene-2,5-dione
A solution of 1.38 g (3.44 mmol) hept-6-enoic acid {(S)-1-[(R)-1-(2-chloro-1-hydroxy-ethyl)-3-methyl-hept-6-enylcarbamoyl]-ethyl}-methyl-amide in 17 ml DCM is added dropwise within an hour to a refluxing solution of 146 mg [1,3-bis-(2,4,6-trimethylphenyl)-2-imidazolidinylidene)-dichloro(phenylmethylene)-(tricyclohexylphosphine)ruthenium](Grubbs II catalyst) in 340 ml DCM. The mixture is refluxed for an additional hour and the solvent evaporated. The residue is purified by chromatography on silica gel (DCM/methanol 95/5), giving the desired product as a brownish foam (mixture of diastereomers).

reactant | hept-6-enoic acid {(S)-1-[(R)-1-(2-chloro-1-hydroxy-ethyl)-3-methyl-hept-6-enylcarbamoyl]-ethyl}-methyl-amide | 3.44 mmol, 1.38 g | ClCC(O)[C@@H](CC(CCC=C)C)NC(=O)[C@H](C)N(C(CCCCC=C)=O)C | C21H37ClN2O3
solvent | DCM | 17 ml | C(Cl)Cl | CH2Cl2
catalyst | Grubbs II | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | DCM | 340 ml | C(Cl)Cl | CH2Cl2
product | (E)-(3S,14R)-16-(2-Chloro-1-hydroxy-ethyl)-3,4,14-trimethyl-1,4diaza-cyclohexadec-10-ene-2,5-dione | ClCC(O)C1C[C@@H](CC/C=C/CCCCC(N([C@H](C(N1)=O)C)C)=O)C | C19H33ClN2O3
